US05053426
3-(Acetylamino)-N-(2-hydroxyethyl)propanamide, 16
A mixture of 0.42 g of ethanolamine and 1.0 g of N-acetyl-β-alanine methyl ester was heated at 85° C. for 4 hours. The resulting yellow oil solidified upon cooling and was crystallized from acetonitrile, giving 0.75 g of the desired compound as a white solid, mp 122-125° C.

reactant | ethanolamine | 0.42 g | C(O)CN | C2H7NO
reactant | N-acetyl-β-alanine methyl ester | 1.0 g | COC(CCNC(C)=O)=O | C6H11NO3
product | 3-(Acetylamino)-N-(2-hydroxyethyl)propanamide | 0.75 g | C(C)(=O)NCCC(=O)NCCO | C7H14N2O3
